US09290465B2
To a solution of 4-hydroxybenzaldehyde (10 g, 81.9 mmol) in DMF (200 mL) was added K2CO3 (14.7 g, 106 mmol), tetrabutylammonium iodide (3.06 g, 8.2 mmol) and 4-methoxybenzyl chloride (14.1 g, 90 mmol). The reaction mixture was stirred for 14 h at rt and then poured into ice water. The product 4-(4-methoxy-benzyloxy)-benzaldehyde was isolated by filtration.

reactant | 4-hydroxybenzaldehyde | 81.9 mmol, 10 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | K2CO3 | 106 mmol, 14.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxybenzyl chloride | 90 mmol, 14.1 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 8.2 mmol, 3.06 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-(4-methoxy-benzyloxy)-benzaldehyde | COC1=CC=C(COC2=CC=C(C=O)C=C2)C=C1 | C15H14O3
